US06068963
2-(5-Aminopentyl)benzothiazole (synthesized from 2-aminobenzenethiol and ε-caprolactam) was reacted with a mixed acid anhydride of methacrylic acid and carbonic acid prepared through reaction of methacrylic acid and ethyl chloroformate under basic conditions to obtain 2-(5-methacryloylaminopentyl)benzothiazole. Copolymerization with acrylic acid afforded a Polymer [BP-3] which is used in the present invention. The weight average molecular weight measured by GPC was 11.0×104 (polystyrene standard)

reactant | 2-(5-Aminopentyl)benzothiazole | NCCCCCC=1SC2=C(N1)C=CC=C2 | C12H16N2S
reactant | methacrylic acid | C(C(=C)C)(=O)O | C4H6O2
reactant | carbonic acid | C(O)(O)=O | CH2O3
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | 2-(5-methacryloylaminopentyl)benzothiazole | C(C(=C)C)(=O)NCCCCCC=1SC2=C(N1)C=CC=C2 | C16H20N2OS
